US05382600
a) N,N-Diisopropyl-3- (2-methoxy-5-methylphenyl)-3-phenylpropylamine
3-(2-Methoxy-5-methylphenyl)-3-phenylpropionic acid (12.8 g, 0.05 mol) (J. D. Simpson & H. Stehphen, J. Chem. Soc. 1956 1382) and thionyl chloride (50 ml) are heated on a water bath for 3 h. The excess of thionyl chloride is distilled off under reduced pressure. The remaining crude 3-(2-methoxy-5-methylphenyl)3-phenylpropionyl chloride is dissolved in 50 ml of dichloromethane and added dropwise to a stirred solution of diisopropylamine (20.2 g, 0.20 mol) in 200 ml of dichloromethane at about 0° C. The solution is left for 2 h, the solvent is distilled off and the remaining material is treated with water. The solid product consisting of N,N-diisopropyl-3-(2-methoxy-5-methylphenyl)-3-phenylpropionamide is filtered off, dried and added in small portions to a stirred suspension of lithium aluminium hydride (6.0 g, 0.16 mol) in dry ether (700 ml). The mixture is refluxed for 2 days. Excess of hydride is destroyed by the careful addition of water, the ether layer is separated and dried with anhydrous sodium sulfate. After filtration the solution is added to a solution of excess fumaric acid in ether. The precipitated salt is collected and crystallized from 2-propanol. The hydrogen fumarate melts at 176° C.

reactant | 3-(2-Methoxy-5-methylphenyl)-3-phenylpropionic acid | 0.05 mol, 12.8 g | COC1=C(C=C(C=C1)C)C(CC(=O)O)C1=CC=CC=C1 | C17H18O3
reactant | thionyl chloride | 50 ml | S(=O)(Cl)Cl | Cl2OS
reactant | diisopropylamine | 0.20 mol, 20.2 g | C(C)(C)NC(C)C | C6H15N
reactant | lithium aluminium hydride | 0.16 mol, 6.0 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
solvent | ether | 700 ml | CCOCC | C4H10O
product | N,N-Diisopropyl-3- (2-methoxy-5-methylphenyl)-3-phenylpropylamine | C(C)(C)N(C(C)C)CCC(C1=CC=CC=C1)C1=C(C=CC(=C1)C)OC | C23H33NO
